data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7948,"CC(=O)N1CC[C:1](=[N+:2]2CCCC2)[CH:3]([H:4])C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.[OH2:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,9614,"CO[C:1](C)([NH+:2](C)C)[OH:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5991,"C1CCC2=[N+:1]([H:2])CCCN2CC1.CC=CC(C1=[N+](C2=C(F)C(F)=C(F)C(F)=C2F)N=C2COC3CC4=C(C=CC=C4)C3N21)[O-:3].F[B-](F)(F)F.O=C(C1=CC=CC=C1)C(=CC1=CC=C(Br)C=C1)C(=O)C1=CC=CC=C1.O=C(C1=CC=CC=C1)C(=CC1=CC=CC=C1)C(=O)C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5136,"CC[O:1]C1(O)CCCC(C2=CC=CC=C2)O1.O=C(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2638,"C1=CC=C([CH2:1][Br:2])C=C1.CCOC(=O)[CH:3]=[C:4](OCC)[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4293,"CO[C:1](OCCC[O-:2])=[O:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,300,"CC[CH2:1][Br:2].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7235,"CON1C(=O)C2(CC([C:1](N=[N+]=[N-])([O-:2])[Cl:3])C3COC2C(=O)C3)C2=C1C=CC=C2|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5815,"CO[C:1]1(O)[N:2](C)CC[OH+:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3898,"CO.OC12C=[O+:1][C:2]3(C4=C1C=CC=C4)C(CC[O:3]3)C2|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5996,"CC(=O)[O:1][H:2].O=C(OC1CCC([NH+]2CCN(C3=CC=CC=C3)CC2)([O-:3])CC1)C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8457,"O[P:1](O)(O)(O)[I:2]|((1, 2), 2)"
train,pmechdb_split_0,0,4004,"CCCC[CH:1](C(OC1=CC=CC=C1)C(=O)[O-:2])[O:3][P+:4](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCOC(=O)NNC(=O)OCC|(2, 1);((1, 3), 4)"
train,pmechdb_split_0,0,4271,"CC(=O)[O:1][H:2].CC1=CCC(C2=CC=CC=C2)([O-:3])[NH+]1C1CCCCC1N.CO.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6375,"C1CO[C:1]([OH2+:2])([OH:3])OC1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10374,"C1=CC=C(C[NH+:1]=[C:2]2CCCCCC[CH:3]2[H:4])C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.[OH2:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,3778,"COC(O)(C1=CC2=C(C=CN2)C=C1)[OH:1].C[OH+:2][H:3].O=S(=O)([O-])O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2968,"CCOC(CC)(OCC)[NH2:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2744,"CC(C)OC(C[CH+]C[Si:1](C)(C)C)CCC1=CC=CC=C1.C[Si](C)(C)O[Si](C)(C)C.O=S(=O)(C(F)(F)F)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,6065,"CC(C)[N-:1]C(C)C.C[N:2](C(=O)CC(=O)CC1=CC=CC=C1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4387,"O[CH:1]([NH2:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1866,"C[P:1](C)(C)=[O:2]|((1, 2), 2)"
train,pmechdb_split_0,0,6830,"C1CN[C:1]([O-:2])([Cl:3])OC1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,542,"CCOC(=O)CCC(C)=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5416,"CC[OH:1].O=S(=O)([O-])O.O[C:2](CC1=CC(F)=CC(F)=C1)=[OH+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5278,"CC[SH:1].[CH2:2]=[CH:3][C:4]#[NH+:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,933,"CC[CH:1]1C(C)[Br+:2]1.[Br-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2262,"C[CH:1]([NH2+:2]C)[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3186,"CC1CC[CH:1]2CCC(C)[O+:2]12.O=S(=O)([O-])CCl.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4161,"CS(=O)(=O)[O:1][CH3:2].C[S:3]C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7458,"CC(=O)[O:1][H:2].CC1(C)C2CC1C(CC(C(=O)C1=C(F)C=CC=C1)[N+]1=CC=CC=C1)C(N)([OH:3])C2.[I-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5042,"C1CCC2=[N:1]CCCN2CC1.N#CC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7151,"CC(C)(C)[Si](OCC(O)[NH+:1](C(CC#N)CC1=CNC2=CC=CC=C12)[H:2])(C1=CC=CC=C1)C1=CC=CC=C1.N#CCC(CC1=CNC2=C1C=CC=C2)[NH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7463,"CCCCO[Si](C)(C)C.CCCC[O][Ti-]([O]CCCC)([O]CCCC)([O]CCCC)[O:1]C(C=CC=CI)CC(C)=CC(=O)OC.[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4643,"C1CC[C:1](=[O:2])CC1.[CH2:3]=[N+:4]=[N-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2285,"CCCC.CN(C)P(=O)(N(C)C)N(C)C.COC1=CC=C(COCCCC#CC(N(C)C)[O-:1])C=C1.O=P([O-])(O)[O:2][H:3].[Li+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6490,"CC(=O)NC1C=CC([OH:1])CC1NC(=O)OC(C)(C)C.CC(=O)O[I+:2]1(OC(C)=O)OC(=O)C2=C1C=CC=C2.CC(=O)[O-]|(1, 2)"
train,pmechdb_split_0,0,1775,"CCOC(=O)C(C1=[N+](C2=C(F)C(F)=C(F)C(F)=C2F)N=C2CCCN21)(C(C1=CC2=C(C=C1)OCO2)[CH:1]=[C:2](C1=C(F)C=CC=C1)[O-:3])[O:4][H:5].CC[NH+](CC)CC.F[B-](F)(F)F|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,5259,"CCOC(C)[N:1](C)C.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,10082,"CCCC1=CC=C([O+:1](B(Br)Br)[CH3:2])C=C1.[Br-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6064,"C[C:1]1=[C:2]2C=CC=C[C:3]2=[CH:4]C=C1.O=[S+:5](=O)O|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,691,"CC1=CC=C(S(=O)(=O)[O:1][CH:2]2CC(C)CCC2OC(C)=[O:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6453,"C1=CC=[N:1]C=C1.CCC(=O)OC([O-])(CC)[NH+:2](C(CC1CCCCC1)C(=O)[O-])[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3739,"CC1=C(C#N)C(=O)N2CC[C:1](=[O+:2]CC[OH:3])C2=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.O|(3, 1);((1, 2), 2)"
